US04638067
A mixture of 1.00 g (3.95 mmole) 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 10 ml N,N-dimethylformamide, 75 ml acetonitrile, and 1.35 g (11.85 mmole) of N-methyl-3-pyrrolidinemethanamine were refluxed overnight. The reaction was cooled to room temperature and filtered The precipitate was washed with water, ethanol/ether (1:3), and finally with ether until dry to give 1.17 g of 1-ethyl-6-fluoro-1,4-dihydro-7-[3-[(methylamino)methyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid, mp 247°-250° C.

reactant | 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 3.95 mmole, 1.00 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C12H9F2NO3
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N-methyl-3-pyrrolidinemethanamine | 11.85 mmole, 1.35 g | CNCC1CNCC1 | C6H14N2
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
product | 1-ethyl-6-fluoro-1,4-dihydro-7-[3-[(methylamino)methyl]-1-pyrrolidinyl]-4-oxo-3-quinolinecarboxylic acid | 1.17 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)CNC)F)=O)C(=O)O | C18H22FN3O3
